US07540978B2
N,N-Di-(4-isopropylphenyl)amine
N-Acetyl-N,N-di(4-isopropylphenyl)amine (5.4 g, 18.4 mmol) are heated to reflux in 100 ml of 20% aqueous ethanol. The reaction is monitored by thin-layer chromatography. After 30 h, no reactant is any longer detectable in the TLC. The ethanolic solution is poured into dist. water, and the brownish precipitate is filtered off with suction, dissolved in dichloromethane and dried with sodium sulphate. The solution is concentrated and chromatographed through a short silica gel column with 50% dichloromethane in hexane. The product fractions are concentrated to dryness and the product is dried under reduced pressure.

reactant | N-Acetyl-N,N-di(4-isopropylphenyl)amine | 18.4 mmol, 5.4 g | C(C)(=O)N(C1=CC=C(C=C1)C(C)C)C1=CC=C(C=C1)C(C)C | C20H25NO
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | N,N-Di-(4-isopropylphenyl)amine | C(C)(C)C1=CC=C(C=C1)NC1=CC=C(C=C1)C(C)C | C18H23N
